2154-03-04 09:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2154-3-3**] 08:00 PM
    Please see admit note for details.
   - patient was persistently tachycardia to 110s-120s
   - fever overnight to 101.1 for which she had blood and urine cultures
   sent
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Metoprolol - [**2154-3-4**] 12:19 AM
   Heparin Sodium (Prophylaxis) - [**2154-3-4**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-4**] 09:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100.1
   HR: 118 (102 - 129) bpm
   BP: 109/56(67) {82/49(57) - 112/67(76)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 95 kg (admission): 95.9 kg
                  Total In:
                                                                    600 mL
                                                                    250 mL
   PO:
                                                                    500 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
   Total out:
                                                                    415 mL
                                                                    255 mL
   Urine:
                                                                    415 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    185 mL
                                                                     -5 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), harsh
   systolic murmur heard best at the RUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, right ankle wrapped with no
   drainage or leakage
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   318 K/uL
   8.6 g/dL
   214 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.1 mEq/L
   21 mg/dL
   100 mEq/L
   135 mEq/L
   26.4 %
   9.1 K/uL
        [image002.jpg]
                             [**2154-3-3**]  04:33 PM
                             [**2154-3-4**]  01:41 AM
   WBC
   9.1
   Hct
   26.4
   Plt
   318
   Cr
   0.8
   TropT
   0.10
   Glucose
   214
   Other labs: PT / PTT / INR:14.9/25.5/1.3, CK / CKMB /
   Troponin-T:61//0.10, Differential-Neuts:87.3 %, Lymph:7.7 %, Mono:4.7
   %, Eos:0.3 %, Ca++:9.0 mg/dL, Mg++:2.2 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   78 y/o female with mod-severe aortic stenosis and 3 vessel coronary
   artery disease was admitted with CHF exacerbation.
   1. CAD:
   She will be candidate for surgical revascularization once infection
   from foot is cleared. For now, will continue medical management
   with aspirin. Plavix is primarily for PVD/stenting.
   - continue aspirin, statin, plavix
   - will follow-up with CT surgery regarding need for any further
   pre-operative evaluation
   2. CHF/AS:
   Etiology of her decompensation is unclear, but likely due to her aortic
   stenosis and worsened with infection. She currently appears slightly
   hypervolemic.
   - continue lasix 20mg IV with goal of being 1L negative today
   3. Hypoxia
   Etiology of her hypoxia is likely related to congestive heart failure.
   Additional possibility includes pulmonary emboli.
   - continue diuresis
   - if she doesn't improve with diuresis, consider CTA
   4. PVD: Stable
   - continue asa/plavix.
   - appreciate vascular surgery input
   5. Fever
   Differential diagnosis includes infection in her right lower extremity.
   Additional possibility includes pneumonia, endocarditis, or
   osteomyelitis.
   - follow-up blood and urine cultures
   - check TTE
   - consider right lower extremity imaging for evidence of osteo
   6. ANEMIA: likely multifactorial. Will follow/trend.
   - Continue Iron.
   7. DIABETES: Has aggressive non-insulin regimen for outpatient
   use. Will hold these oral hypoglycemics and institute RISS for
   now while in-house.
   8. Tachycardia
   Etiology is likely related to her fever and infection.
   - continue to treat her fevers aggressively
   - continue beta blocker
   9. HYPOTHYROIDISM: continue LT4
   10. OSTEOPENIA/POROSIS: will hold fosamax while in house.
   11. Depression
   - continue escitalopram
   #. FEN: Cardiac diet. 2g salt.
   #. Access: PIV
   #. PPx: No PPI indicated
   #. Code: Full
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-3-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute on chronic systolic and diastolic CHF,
   severe aortic stenosis.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2154-3-4**] 14:05 ------

2154-03-06 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2154-3-5**] 05:45 PM
 BLOOD CULTURED - At [**2154-3-5**] 05:50 PM
 BLOOD CULTURED - At [**2154-3-5**] 08:09 PM
   peripherial stick
   [**2154-3-5**]
   - Transfused 1 unit RBCs with 60mg IV furosemide.
   - Vascular not concerned about infection around wound vac.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2154-3-5**] 08:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-6**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.3
C (97.3
   HR: 105 (97 - 135) bpm
   BP: 109/61(73) {81/48(57) - 113/81(88)} mmHg
   RR: 25 (19 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 90.2 kg (admission): 95.9 kg
                  Total In:
                                                                    410 mL
                  PO:
                                                                     60 mL
                  TF:
   IVF:
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,790 mL
                                                                    325 mL
   Urine:
                                                                  1,770 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
                                                                     20 mL
                                                                     20 mL
   Balance:
                                                                 -1,380 mL
                                                                   -325 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, JVP to 8cm
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), harsh
   systolic murmur heard best at the RUSB
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: doppler), (Left DP pulse:
   doppler) evidence of B/L TMA
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, right ankle wrapped with no
   drainage or leakage
   Skin:  R
   Neurologic: Responds to: AAOx3, strength 5/5, sensation grossly intact
   Labs / Radiology
   347 K/uL
   8.9 g/dL
   151 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   30 mg/dL
   101 mEq/L
   140 mEq/L
   25.5 %
   8.6 K/uL
         [image002.jpg]
                             [**2154-3-3**]  04:33 PM
                             [**2154-3-4**]  01:41 AM
                             [**2154-3-4**]  03:09 PM
                             [**2154-3-5**]  05:03 AM
                             [**2154-3-5**]  07:43 PM
                             [**2154-3-6**]  01:50 AM
   WBC
   9.1
   8.4
   8.6
   Hct
   26.4
   24.3
   24.2
   26.1
   25.5
   Plt
   [**Telephone/Fax (3) 5128**]
   Cr
   0.8
   0.8
   0.7
   0.8
   TropT
   0.10
   Glucose
   [**Telephone/Fax (3) 5129**]
   Other labs: PT / PTT / INR:14.5/25.3/1.3, CK / CKMB /
   Troponin-T:61//0.10, Differential-Neuts:87.3 %, Lymph:7.7 %, Mono:4.7
   %, Eos:0.3 %, Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   78 y/o female with mod-severe aortic stenosis and 3 vessel coronary
   artery disease was admitted with CHF exacerbation.
   # CAD: She will be candidate for surgical revascularization once
   infection from foot is cleared. For now, will continue medical
   managementwith aspirin. Plavix is primarily for PVD/stenting.
   - continue aspirin, statin, plavix
   -continue beta blocker at increased dose metoprolol 37.5mg [**Hospital1 **]
   - CT surgery aware of patient and will plan on CABG/AVR when infection
   clears
   -will consider vein mapping per CT
   #. CHF/AS: Repeat  echo showed EF 25-30% with progression of  AS to
   severe. Etiology of her decompensation is unclear, but likely due to
   her aortic stenosis and worsened with infection. She currently appears
   more euvolemic with ability to wean oxygen to 1L tdoay
   -started 40mg PO lasix regimen, goal to keep patient even to 500cc
   negative
   #.Tachycardia-NSR, baseline HR in 110s likely multifactorial infection
   vs anemia vs PE currently on 37.5 mg TID metoprolol
   -give 1unit of PRBC yesterday
   -monitor on tele
   -uptitrate betablocker as needed for goals HR<110
   -continue fever workup as below
   - LENIs negative on admission, consider CTA to r/o PE if not improved
   #. Hypoxia-Etiology of her hypoxia is likely related to congestive
   heart failure. Improved to 1L NC with diuresis. Additional possibility
   includes pulmonary emboli.
   - continue diuresis as above
   - if she doesn't improve with diuresis, consider CTA
   #. PVD: Stable, wound vac in place
   - continue asa/plavix.
   - appreciate vascular surgery input re: wound vac dressing and need for
   antibiotics, to see patient in am
   #. Fever-Differential diagnosis includes infection in her right lower
   extremity vs osteo. Additional possibility includes pneumonia consider
   CAP vs. HAP. Endocarditis unlikely given neg BCx and echo not
   suspicious for vegetations.
   - follow-up blood and urine cultures NGTD
   - consider right lower extremity imaging for evidence of osteo
   -appreciate vascular recs re wound vac
   #. ANEMIA: likely multifactorial. Hct at 24, baseline 28, transfused
   1uPRBC yesterday with small bump, decreased this am but HR at baseline
   - Continue Iron.
   -trend hct
   #. DIABETES: Has aggressive non-insulin regimen for outpatient use.
   -Will continue to hold metformin
   -will restart home antifglycemics
   -continue HISS for now while in-house.
   #. HYPOTHYROIDISM: continue LT4
   #. OSTEOPENIA/POROSIS: will hold fosamax while in house.
   #. Depression
   - continue escitalopram
   #. FEN: Cardiac diet. 2g salt.
   #. Access: PIV
   #. PPx: No PPI indicated, sub Q hep
   #. Code: Full
   #. Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2154-3-3**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: